US08022062B2
4-Cyano-2-fluoro-benzoic acid:
Dissolve methyl 4-cyano-2-fluoro-benzoate (2.9 g, 16.2 mmol) in absolute ethanol (100 mL). Add potassium hydroxide (4.5 g, 80.2 mmol) and stir the milky white mixture for 1.5 h. Dilute the mixture with water (125 mL) and wash with diethyl ether (50 mL). Collect the aqueous layer and concentrate in vacuo until solids start to appear in the flask, then adjust the mixture to pH 1 with concentrated HCl. Extract the aqueous mixture with diethyl ether (3×500 mL). Combine the organic extracts and concentrate in vacuo to obtain the desired intermediate as a white solid (2.2 g, 83%).

reactant | methyl 4-cyano-2-fluoro-benzoate | 16.2 mmol, 2.9 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)F | C9H6FNO2
reactant | potassium hydroxide | 80.2 mmol, 4.5 g | [OH-].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 125 mL | O | H2O
product | 4-Cyano-2-fluoro-benzoic acid | 2.2 g, 83% | C(#N)C1=CC(=C(C(=O)O)C=C1)F | C8H4FNO2
